US08466296B2
H. Preparation of {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetonitrile
A 250 mL round bottomed flask equipped with a magnetic stir bar is charged with solid 95% potassium t-butoxide (1.57 g, 13.5 mmol) and DMF (6.5 mL), and the suspension is stirred until all the solids are dissolved. A DMF (4.0 mL) solution containing N-benzyl-1-[(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanamine (1.00 g, 3.3 mmol) and (4-chlorophenoxy)acetonitrile (1.12 g, 6.7 mmol) is added over 3 min. After 30 min, a 2 N aqueous solution of HCl is added until pH 1 is obtained (˜9 mL). The solution is transferred to a separatory funnel and extracted with toluene (2×10 mL) and discarded. The product-containing aqueous phase is adjusted to pH 10 by the addition of 10 N aqueous NaOH, and extracted with toluene (2×10 mL). The product-containing organic phases are combined and washed with water (15 mL) and then with brine (15 mL), and the volatiles are removed by evaporation to give the title compound (1.01 g, 88%) as a syrup. LCMS (Basic Method): 2.06 min, 340 (M+H)+. 1H NMR (300 MHz, DMSO-d6) δ 7.71 (d, J=9.1 Hz, 1H), 7.35-7.17 (m, 5H), 7.10 (d, J=9.1 Hz, 1H), 4.50-4.37 (m, 2H), 4.16 (dd, J=7.0, 11.4 Hz, 1H), 4.10 (s, 2H), 3.76 (s, 2H), 2.87-2.74 (m, 2H), NH not observed.

reactant | potassium t-butoxide | 13.5 mmol, 1.57 g | CC(C)([O-])C.[K+]
reactant | N-benzyl-1-[(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanamine | 3.3 mmol, 1.00 g | C(C1=CC=CC=C1)NC[C@H]1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C16H16N2O4
reactant | (4-chlorophenoxy)acetonitrile | 6.7 mmol, 1.12 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | HCl | Cl | ClH
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6.5 mL | CN(C)C=O | C3H7NO
product | {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetonitrile | 1.01 g, 88% | C(C1=CC=CC=C1)NC[C@@H]1OC2=C(OC1)C=CC(=C2CC#N)[N+](=O)[O-] | C18H17N3O4
